US04362727
140 ml of phosphorus oxychloride and 1.5 ml of N,N-dimethylaniline are added to 14.0 g (54 mmoles) of 9-cyanomethylene-4,5-dihydro-dithieno[3,4-b:4',3'-e]azepin-5-one (cis/trans-isomer mixture) and the mixture is refluxed under nitrogen for 1 hour. After all the excess phosphorus oxychloride and dimethylaniline have been distilled off under reduced pressure from an oil pump, the residue is partitioned between methylene chloride and water, the aqueous phase is extracted twice more with methylene chloride and the combined organic phases are washed thoroughly with dilute HCl and water. Drying and concentrating the organic phase gives 14.4 g (96%) of 5-chloro-9-cyanomethylene-dithieno[3,4-b:4',3'-e]azepine, which is sufficiently pure for the further reaction.

reactant | N,N-dimethylaniline | 1.5 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 9-cyanomethylene-4,5-dihydro-dithieno[3,4-b:4',3'-e]azepin-5-one | 54 mmoles, 14.0 g | C(#N)C=C1C=2C(NC(C=3C1=CSC3)=O)=CSC2 | C12H6N2OS2
reactant | phosphorus oxychloride | 140 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-chloro-9-cyanomethylene-dithieno[3,4-b:4',3'-e]azepine | 14.4 g, 96% | ClC=1C=2C(C(C=3C(N1)=CSC3)=CC#N)=CSC2 | C12H5ClN2S2
